US06541580B1
Solution Polymerization of Methyl Methacrylate/1-Phenylethyl Bromide/CuCl
A dry round-bottomed flask was charged with CuCl (23.2 mg; 0.234 mmol), 4,4′-di(5-nonyl)-2,2′-bipyridine (190.9 mg; 0.468 mmol) and diphenyl ether (10.0 ml). The flask was sealed with a rubber septum and was cycled between vacuum and argon three times to remove the oxygen. Degassed methyl methacrylate (10.0 ml; 93.6 mmol) was added using degassed syringes and stainless steel needles. The 1-phenylethyl bromide (64 mL; 0.468 mmol) was added and the flask was immersed in an oil bath held by a thermostat at 90° C. At various times samples were taken via syringe to monitor conversion (GC) and molecular weight (SEC).

reactant | CuCl | 0.234 mmol, 23.2 mg | Cl[Cu]
reactant | 4,4′-di(5-nonyl)-2,2′-bipyridine | 0.468 mmol, 190.9 mg | CCCCC(CCCC)C1=CC(=NC=C1)C1=NC=CC(=C1)C(CCCC)CCCC | C28H44N2
reactant | diphenyl ether | 10.0 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | methyl methacrylate | 93.6 mmol, 10.0 ml | C(C(=C)C)(=O)OC | C5H8O2
reactant | 1-phenylethyl bromide | 0.468 mmol, 64 mL | C1(=CC=CC=C1)C(C)Br | C8H9Br
product | Methyl Methacrylate 1-Phenylethyl Bromide CuCl | C(C(=C)C)(=O)OC.C1(=CC=CC=C1)C(C)Br.Cl[Cu] | InChI=1S/C8H9Br.C5H8O2.ClH.Cu/c1-7(9)8-5-3-2-4-6-8;1-4(2)5(6)7-3;;/h2-7H,1H3;1H2,2-3H3;1H;/q;;;+1/p-1
